US08227492B2
Step 2: Preparation of 2-Amino-5-chloro-N-(5-chloro-pyridin-2-yl)-benzamide
To a stirred solution of 5-Chloro-N-(5-chloro-pyridin-2-yl)-2-nitro-benzamide (26 g, 0.0833 mol) in ethyl acetate (170 mL) was added Stannous chloride dihydrate (75 g, 0.333 mol) at 25-30° C. After stirring at same temperature for 2 hr, reaction mixture was diluted with 250 mL ethyl acetate and made alkaline with aqueous ammonia solution. Reaction mixture was then filtered through hyflow bed and organic layer was dried over sodium sulfate. Evaporation of solvent afforded 19 g of titled compound in 81% yield.

reactant | 5-Chloro-N-(5-chloro-pyridin-2-yl)-2-nitro-benzamide | 0.0833 mol, 26 g | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)[N+](=O)[O-] | C12H7Cl2N3O3
reactant | ammonia | N | H3N
solvent | ethyl acetate | 170 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5-chloro-N-(5-chloro-pyridin-2-yl)-benzamide | 19 g, 81% yield | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)Cl | C12H9Cl2N3O
